US05175263
An aqueous solution of 52 parts of phenol and 50 parts by volume of a 33% aqueous solution of sodium hydroxide in 250 parts of water is treated, at a temperature of between 30° and 35° C., with a solution of 92.5 parts of cyanuric chloride in 700 parts by volume of toluene, with thorough stirring. The reaction mixture is heated to 50° C. and stirred for a further 1 hour at this temperature. The organic phase is separated off and dried with magnesium sulfate and the bulk of the toluene is distilled off. The distillation residue is filtered off with strong suction and washed with twice 20 parts by volume of toluene. After drying under reduced pressure at 30° C., 80 parts of the compound 2,4-dichloro-6-phenoxy-1,3,5-triazine melting at 111 to 116° C. are obtained.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-6-phenoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)OC1=CC=CC=C1 | C9H5Cl2N3O
